US08236826B2
Production of (acetyl{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]benzyl}amino)acetic acid
To a solution of ethyl{4-[5-(3,4-dichloro-benzoylamino)pyridin-2-yloxy]benzylamino}acetate (0.811 g, 1.59 mmol) in dichloromethane (5 mL) were added triethylamine (0.332 mL, 2.39 mmol) and acetyl chloride (0.136 mL, 1.91 mmol) at room temperature. The resulting solution was stirred for 1 hour at the same temperature. To the reaction solution was added water, and extracted with dichloromethane. The dichloromethane layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated, to thereby yield 0.785 g of residue. This residue was dissolved in ethanol (5 mL). To the resulting solution was added 5 M aqueous sodium hydroxide (0.350 mL, 1.75 mmol) at room temperature and stirred at the same temperature for 14 hours. To the resulting reaction solution were added 5 M hydrochloric acid (0.400 mL) and water, and extracted with dichloromethane. The dichloromethane layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated, to thereby yield 0.776 g of the title compound.

reactant | ethyl{4-[5-(3,4-dichloro-benzoylamino)pyridin-2-yloxy]benzylamino}acetate | 1.59 mmol, 0.811 g | C(C)OC(CNCC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C23H21Cl2N3O4
reactant | triethylamine | 2.39 mmol, 0.332 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.91 mmol, 0.136 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 1.75 mmol, 5 M, 0.350 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M, 0.400 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (acetyl{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]benzyl}amino)acetic acid | C(C)(=O)N(CC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)CC(=O)O | C23H19Cl2N3O5
